US05387710
A mixture of 1-(6-chloro-2-pyridyl)ethanol (2.13 g) and manganese dioxide (8.4 g) in chloroform (21 ml) was refluxed for 8 hours. After cooling, the mixture was filtered through celite pad and the filtrate was evaporated in vacuo. The residue was purified by distillation under reduced pressure to give 2-acetyl-6-chloropyridine (1.84 g).

reactant | 1-(6-chloro-2-pyridyl)ethanol | 2.13 g | ClC1=CC=CC(=N1)C(C)O | C7H8ClNO
solvent | chloroform | 21 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 8.4 g | [O-2].[O-2].[Mn+4]
product | 2-acetyl-6-chloropyridine | 1.84 g | C(C)(=O)C1=NC(=CC=C1)Cl | C7H6ClNO
